2104-05-05 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2104-5-4**]:
   - Crn somewhat improved with minimal fluids
   - Hct dropped from 29 to 25.1, likely dilutional
   - BPs down to 80/50, gave 250cc bolus, somewhat improved
   - Had nausea in the PM, improved with zofran
   - BP down overnight, received additional two boluses of 250ccs with
   increase in blood pressure (marginally).
   - Hct down to 25.4, transfused one unit, may repeat
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-5-4**] 11:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-5**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 84 (62 - 88) bpm
   BP: 97/54(65) {69/28(26) - 101/57(66)} mmHg
   RR: 13 (9 - 22) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,747 mL
                                                                    563 mL
   PO:
                                                                    580 mL
             TF:
   IVF:
                                                                  1,167 mL
                                                                    563 mL
   Blood products:
   Total out:
                                                                    345 mL
                                                                    100 mL
   Urine:
                                                                    345 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,402 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) Conjunctiva pale, EOMI
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (Murmur: Systolic),
   Late-peaking III/VI systolic murmur heard best at the RUSB, loss of S2
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   161 K/uL
   7.8 g/dL
   108 mg/dL
   3.0 mg/dL
   25 mEq/L
   5.2 mEq/L
   48 mg/dL
   102 mEq/L
   135 mEq/L
   25.4 %
   5.8 K/uL
        [image002.jpg]
                             [**2104-5-4**]  10:16 AM
                             [**2104-5-4**]  08:04 PM
                             [**2104-5-5**]  04:10 AM
   WBC
   4.9
   5.8
   Hct
   25.1
   27.1
   25.4
   Plt
   145
   161
   Cr
   2.8
   3.0
   Glucose
   113
   108
   Other labs: Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   89 yo woman with severe AS, systolic and diastolic dysfunction presents
   with epigastric discomfort, acute renal failure.
   # Epigastric discomfort: Unlikely angina, given lack of worsening with
   exertion, lack of associated symptoms, such as chest pressure. Mild
   troponin elevation likely red [**Doctor Last Name 7040**] in setting of acute renal
   failure. In addition, recent coronary angiography did not demonstrate
   any significant coronary artery disease. Discomfort perhaps secondary
   to GERD, given associated increase in belching and bile taste in mouth.
   LFTs are w/i normal limits. In any case, it has resolved.
   - Monitor symptoms
   # Acute renal failure: Likely combination of two recent contrast
   studies (coronary angiography and CTA), combined with continued
   medication adherence and possibly a component of TMP-SMX contributing
   to increased Cr. She does report mild nausea as well, so decreased PO
   intake could also be partially to blame.
   - hold furosemide, valsartan
   - administer 250 cc IVF PRN
   - transfuse as below
   # Anemia: Not bleeding from GI tract (guaiac neg) and followed by heme
   chronically
   - Will transfuse today
   - Monitor for CHF symptoms today
   # Hypotension: Mild, resolved
   - hold furosemide, metoprolol, valsartan
   - administer 250 cc IVF PRN
   # Chronic systolic and diastolic heart failure: No evidence of volume
   overload on exam, although does appear to ahve small bilateral pleural
   effusions on CXR.
   - hold furosemide, valsartan
   # AS: Severe, leading to heart failure, and recent admission for
   syncope. Planned to have AVR this week. Will touch base with CT surgery
   today to find out date of surgery.
   # Hyperkalemia: Likely [**2-18**] ARF.
   - monitor
   # UTI: continue TMP/SMX at once-daily dosing given ARF. Call micro labs
   for sensitivities so may be able to change antibiotics for less renal
   dosing issues.
   # Chronic anemia: stable
   - continue iron supplementation
   # FEN: Low-salt diet, replete lytes prn
   # Access: PIV
   # PPx: Sc heparin, bowel regimen prn
   # Code: FULL
   # Dispo: Pending resolution of above
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined.  Stable respiratory
   status.  HCT low, receiving PRBC transfusion.  Mild abdominal
   discomfort and nausea without evident cardiovascular cause.  Acute on
   chronic renal failure
 stable.  AVR planned when clinical status
   stabilizes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 135**] [**Last Name (NamePattern1) **], MD
   on:[**2104-5-5**] 16:36 ------
   60 minutes of critical care delivered.  ICU level care due to critical
   AS, renal failure, and hypotension.
   ------ Protected Section Addendum Entered By:[**Name (NI) 135**] [**Last Name (NamePattern1) **], MD
   on:[**2104-5-5**] 16:36 ------

2104-05-06 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Got 2units prBCs and Hct increased
   - K was high->Kayexalate given
   - Nauseous after Kayexalate so got zofran and ativan. EKG was unchanged
   (LBBB) and was not having pain, just nausea
   - CT sgy was called and said would likely not take patient to OR until
   creatinine back down
   - Micro lab was called and added on sensitivities to change ABx for UTI
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2104-5-5**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2104-5-5**] 10:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-6**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 105 (77 - 119) bpm
   BP: 100/57(68) {86/45(56) - 145/84(100)} mmHg
   RR: 23 (11 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  1,543 mL
                  PO:
                                                                    570 mL
                  TF:
   IVF:
                                                                    598 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    710 mL
                                                                    200 mL
   Urine:
                                                                    680 mL
                                                                    200 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    833 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) Conjunctiva pale, EOMI
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (Murmur: Systolic),
   Late-peaking III/VI systolic murmur heard best at the RUSB, loss of S2
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Bilateral crackles to
 way up with expiratory
   wheezes throughout
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   177 K/uL
   10.0 g/dL
   128 mg/dL
   2.6 mg/dL
   22 mEq/L
   5.4 mEq/L
   49 mg/dL
   106 mEq/L
   139 mEq/L
   32.0 %
   5.5 K/uL
        [image002.jpg]
                             [**2104-5-4**]  10:16 AM
                             [**2104-5-4**]  08:04 PM
                             [**2104-5-5**]  04:10 AM
                             [**2104-5-5**]  04:25 PM
                             [**2104-5-6**]  04:28 AM
   WBC
   4.9
   5.8
   5.5
   Hct
   25.1
   27.1
   25.4
   31.0
   32.0
   Plt
   145
   161
   177
   Cr
   2.8
   3.0
   2.8
   2.6
   Glucose
   113
   108
   128
   Other labs: Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   89 yo woman with severe AS, systolic and diastolic dysfunction presents
   with epigastric discomfort, acute renal failure.
   # Acute renal failure: Likely combination of two recent contrast
   studies (coronary angiography and CTA), combined with continued
   medication adherence and possibly a component of TMP-SMX contributing
   to increased Cr. She does report mild nausea as well, so decreased PO
   intake could also be partially to blame.
   - hold valsartan
   - administer 250 cc IVF PRN
   - transfuse as below
   # Dyspnea and Increasing O2 requirement:   Likely secondary to critical
   aortic stenosis and chronic CHF, however as RLE more edematous will get
   LENIs to rule out DVT.  Concern for volume overload because have been
   holding lasix in setting of renal failure.
   - CXR this AM
   - Lasix IV 40mg today as developing CHF symptoms
   - Nebs PRN
   - Consider restarting metoprolol for tachycardia later today
   # Anemia: Chronic issue, on iron supplementation as an outpatient. Not
   bleeding from GI tract (guaiac neg) and followed by heme chronically
   - Transfused yesterday, Hct increased appropriately
   # Hypotension: Mild, resolved
   - hold metoprolol, valsartan
   - administer 250 cc IVF PRN
    # AS: Severe, leading to heart failure, and recent admission for
   syncope. Planned to have AVR this week. Will touch base with CT surgery
   today to find out date of surgery, will likely not take in the setting
   of ARF.
    # Hyperkalemia: Likely [**2-18**] ARF.  Mild peaked T waves
   - Kayexalate given yesterday, made the patient nauseated
   - Monitor lytes [**Hospital1 7**]
   # UTI: continue TMP/SMX at once-daily dosing given ARF. Call micro labs
   for sensitivities so may be able to change antibiotics for less renal
   dosing issues.
   - Change to ampicillin today.
   # Epigastric discomfort/Nausea:  Concern for bowel ischemia with
   critical AS, resolved.  Lactate wnl.  LFTs are w/i normal limits.  Most
   likely secondary to renal failure
   - Monitor symptoms
   - Ativan PRN for nausea
   # FEN: Low-salt diet, replete lytes prn
   # Access: PIV
   # PPx: Sc heparin, bowel regimen prn
   # Code: FULL
   # Dispo: Pending resolution of above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-5-6**] 04:28 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined on CCU Rounds.
   Moderate respiratory distress with oxygen sats on 4 liters in the low
   90
s, tachypnea (RR 20), tachycardia (HR 120), decreased air movement
   with rales 1/3 up bilaterally.  RLE edema > Left.  We plan CXR, IV
   lasix, nebs.  Have recontacted Dr. [**Last Name (STitle) **] to discuss timing of AVR.
   Renal function slowly improving.  I agree with Dr. [**Last Name (STitle) 5077**]
s H+P,
   A+P.  60 minutes spent on patient care.  ICU level care due to
   respiratory status.
   ------ Protected Section Addendum Entered By:[**Name (NI) 135**] [**Last Name (NamePattern1) **], MD
   on:[**2104-5-6**] 09:51 ------

2104-05-07 06:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   no surgery till renal function improves
   LENI negative
   CXR with [**Last Name (un) 7071**] b and pleural effusion *my read, received lasix 40mg IV
   X1
   Tolerated Kayexalate, K decreased appropriately
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2104-5-7**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2104-5-6**] 09:40 AM
   Heparin Sodium (Prophylaxis) - [**2104-5-6**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-7**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 89 (82 - 121) bpm
   BP: 92/49(59) {81/41(51) - 130/81(94)} mmHg
   RR: 15 (10 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    770 mL
                                                                    130 mL
   PO:
                                                                    420 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    350 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,805 mL
                                                                    210 mL
   Urine:
                                                                  1,255 mL
                                                                    210 mL
   NG:
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                 -1,035 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) Conjunctiva pale, EOMI
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), Late-peaking III/VI
   systolic murmur heard best at the RUSB, loss of S2
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Bilateral crackles to
 way up with expiratory
   wheezes throughout
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   136 K/uL
   8.7 g/dL
   110 mg/dL
   2.0 mg/dL
   28 mEq/L
   4.6 mEq/L
   43 mg/dL
   108 mEq/L
   143 mEq/L
   29.0 %
   4.7 K/uL
        [image002.jpg]
                             [**2104-5-4**]  10:16 AM
                             [**2104-5-4**]  08:04 PM
                             [**2104-5-5**]  04:10 AM
                             [**2104-5-5**]  04:25 PM
                             [**2104-5-6**]  04:28 AM
                             [**2104-5-6**]  01:05 PM
                             [**2104-5-7**]  03:44 AM
   WBC
   4.9
   5.8
   5.5
   4.7
   Hct
   25.1
   27.1
   25.4
   31.0
   32.0
   29.0
   Plt
   145
   161
   177
   136
   Cr
   2.8
   3.0
   2.8
   2.6
   2.4
   2.0
   Glucose
   113
   108
   128
   142
   110
   Other labs: Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   89 yo woman with severe AS, systolic and diastolic dysfunction presents
   with epigastric discomfort, acute renal failure.
   # Acute renal failure:  Improving, cause was likely combination of two
   recent contrast studies (coronary angiography and CTA), combined with
   continued medication adherence and possibly a component of TMP-SMX. She
   did report mild nausea as well, so decreased PO intake could also have
   been partially to blame.
   - continue to hold valsartan
   - administer 250 cc IVF PRN (however patient has not required fluid in
   the past two days)
   - transfuse as below
   - Improved with some diuresis yesterday
   # Dyspnea:   Improved with diuresis yesterday.  Likely secondary to
   critical aortic stenosis and chronic CHF, however as RLE more edematous
   will get LENIs to rule out DVT.  Concern for volume overload because
   have been holding lasix in setting of renal failure.
   - Lasix IV 40mg yesterday as was developing CHF symptoms
   - Nebs PRN
   - Will use lasix prn for SOB but will hold on daily dosing given
   preload dependence with AS
   # Anemia: Chronic issue, on iron supplementation as an outpatient. Not
   bleeding from GI tract (guaiac neg) and followed by heme chronically
   - Transfused [**2104-5-4**], Hct increased appropriately
   # Hypotension: Mild, resolved
   - consider small dose metoprolol as above and continue to hold
   valsartan
   - administer 250 cc IVF PRN
    # AS: Severe, leading to heart failure, and recent admission for
   syncope. Planned to have AVR this week.
 Will contact CT surgery again today as renal failure improving.
   - [**Month (only) 51**] consider adding small dose beta blocker on her if bps can
   tolerate today
    # Hyperkalemia:  Likely [**2-18**] ARF.  Mild peaked T waves on EKG yesterday
   - Kayexalate and lasix yesterday improved.
   - Monitor lytes [**Hospital1 7**]
   # UTI:
   - Continue ampicillin until surgery
   # Epigastric discomfort/Nausea:  Concern for bowel ischemia with
   critical AS, resolved.  Lactate wnl.  LFTs are w/i normal limits.  Most
   likely secondary to renal failure
   - Monitor symptoms
   - Ativan PRN for nausea
   # FEN: Low-salt diet, replete lytes prn
   # Access: PIV
   # PPx: Sc heparin, bowel regimen prn
   ICU Care
   Nutrition:  Low salt diet
   Glycemic Control:  none needed
   Lines:
   20 Gauge - [**2104-5-6**] 04:28 AM
   18 Gauge - [**2104-5-7**] 12:04 AM
   Prophylaxis:
   DVT:  Heparin SC TID
   Stress ulcer: po diet
   Communication:  with patient
   Code status:  FULL
   Disposition:  CCU and possibly to floor today
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   agree with above
   Physical Examination
   agree with above
   Medical Decision Making
   agree with above
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 946**]  on:[**2104-5-7**]
   17:19 ------

2104-05-08 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2104-5-7**]:
   - Added Metoprolol 12.5mg [**Hospital1 7**] today, tolerated well
   - UOP 20cc/hr however Crn improved to 1.6 without any diuresis today
   - K at 5.2 at 3pm - put on low potassium diet
   - Surgery not planned until renal failure improved, however ? of
   valvuloplasty
   - UOP tapering off, so gave 40mg IV lasix with good response
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2104-5-8**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-5-7**] 10:00 PM
   Furosemide (Lasix) - [**2104-5-7**] 11:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-8**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 79 (71 - 103) bpm
   BP: 111/59(72) {91/48(60) - 114/68(79)} mmHg
   RR: 12 (11 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    900 mL
                                                                    250 mL
   PO:
                                                                    600 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    300 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    592 mL
                                                                  1,130 mL
   Urine:
                                                                    592 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    308 mL
                                                                   -880 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) Conjunctiva pale, EOMI
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), Late-peaking III/VI
   systolic murmur heard best at the RUSB, loss of S2
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Bilateral crackles to
 way up with expiratory
   wheezes throughout
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   150 K/uL
   9.4 g/dL
   128 mg/dL
   1.6 mg/dL
   28 mEq/L
   5.2 mEq/L
   40 mg/dL
   107 mEq/L
   143 mEq/L
   31.3 %
   5.3 K/uL
        [image002.jpg]
                             [**2104-5-4**]  10:16 AM
                             [**2104-5-4**]  08:04 PM
                             [**2104-5-5**]  04:10 AM
                             [**2104-5-5**]  04:25 PM
                             [**2104-5-6**]  04:28 AM
                             [**2104-5-6**]  01:05 PM
                             [**2104-5-7**]  03:44 AM
                             [**2104-5-7**]  03:04 PM
                             [**2104-5-8**]  04:29 AM
   WBC
   4.9
   5.8
   5.5
   4.7
   5.3
   Hct
   25.1
   27.1
   25.4
   31.0
   32.0
   29.0
   31.3
   Plt
   145
   161
   177
   136
   150
   Cr
   2.8
   3.0
   2.8
   2.6
   2.4
   2.0
   1.6
   Glucose
   113
   108
   128
   142
   110
   128
   Other labs: Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   89 yo woman with severe AS, systolic and diastolic dysfunction presents
   with epigastric discomfort, acute renal failure.
   # Acute renal failure:  Improving, cause was likely combination of two
   recent contrast studies (coronary angiography and CTA), combined with
   continued medication adherence and possibly a component of TMP-SMX. She
   did report mild nausea as well, so decreased PO intake could also have
   been partially to blame.
   - continue to hold valsartan
   - administer 250 cc IVF PRN (however patient has not required fluid in
   the past two days)
   - transfuse as below
   - Improved with some diuresis yesterday
   # Dyspnea:   Improved with diuresis yesterday.  Likely secondary to
   critical aortic stenosis and chronic CHF, however as RLE more edematous
   will get LENIs to rule out DVT.  Concern for volume overload because
   have been holding lasix in setting of renal failure.
   - Lasix IV 40mg yesterday as was developing CHF symptoms
   - Nebs PRN
   - Will use lasix prn for SOB but will hold on daily dosing given
   preload dependence with AS
   # Anemia: Chronic issue, on iron supplementation as an outpatient. Not
   bleeding from GI tract (guaiac neg) and followed by heme chronically
   - Transfused [**2104-5-4**], Hct increased appropriately
   # Hypotension: Mild, resolved
   - consider small dose metoprolol as above and continue to hold
   valsartan
   - administer 250 cc IVF PRN
    # AS: Severe, leading to heart failure, and recent admission for
   syncope. Planned to have AVR this week.
 Will contact CT surgery again today as renal failure improving.
   - [**Month (only) 51**] consider adding small dose beta blocker on her if bps can
   tolerate today
    # Hyperkalemia:  Likely [**2-18**] ARF.  Mild peaked T waves on EKG yesterday
   - Kayexalate and lasix yesterday improved.
   - Monitor lytes [**Hospital1 7**]
   # UTI:
   - Continue ampicillin until surgery
   # Epigastric discomfort/Nausea:  Concern for bowel ischemia with
   critical AS, resolved.  Lactate wnl.  LFTs are w/i normal limits.  Most
   likely secondary to renal failure
   - Monitor symptoms
   - Ativan PRN for nausea
   # FEN: Low-salt diet, replete lytes prn
   # Access: PIV
   # PPx: Sc heparin, bowel regimen prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-5-6**] 04:28 AM
   18 Gauge - [**2104-5-7**] 12:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-05-09 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CT surgery confirmed surgery will be monday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2104-5-9**] 12:35 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-5-8**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-9**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 72 (72 - 104) bpm
   BP: 95/46(57) {86/43(56) - 114/94(98)} mmHg
   RR: 10 (2 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,010 mL
                                                                    100 mL
   PO:
                                                                    810 mL
             TF:
   IVF:
                                                                    200 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    215 mL
   Urine:
                                                                  1,720 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -710 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) Conjunctiva pale, EOMI
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), Late-peaking III/VI
   systolic murmur heard best at the RUSB, loss of S2
   Respiratory / Chest: Decreased BS bilaterally with scattered crackles
   and no wheezing
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   130 K/uL
   9.0 g/dL
   118 mg/dL
   1.1 mg/dL
   31 mEq/L
   4.8 mEq/L
   36 mg/dL
   104 mEq/L
   140 mEq/L
   30.6 %
   6.5 K/uL
        [image002.jpg]
                             [**2104-5-4**]  10:16 AM
                             [**2104-5-4**]  08:04 PM
                             [**2104-5-5**]  04:10 AM
                             [**2104-5-5**]  04:25 PM
                             [**2104-5-6**]  04:28 AM
                             [**2104-5-6**]  01:05 PM
                             [**2104-5-7**]  03:44 AM
                             [**2104-5-7**]  03:04 PM
                             [**2104-5-8**]  04:29 AM
                             [**2104-5-9**]  03:19 AM
   WBC
   4.9
   5.8
   5.5
   4.7
   5.3
   6.5
   Hct
   25.1
   27.1
   25.4
   31.0
   32.0
   29.0
   31.3
   30.6
   Plt
   145
   161
   177
   136
   150
   130
   Cr
   2.8
   3.0
   2.8
   2.6
   2.4
   2.0
   1.6
   1.3
   1.1
   Glucose
   113
   108
   128
   142
   110
   128
   104
   118
   Other labs: PT / PTT / INR:13.1/63.1/1.1, Ca++:8.7 mg/dL, Mg++:2.0
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   89 yo woman with severe AS, systolic and diastolic dysfunction presents
   with epigastric discomfort, acute renal failure.
   # Acute renal failure:  [**2-18**] contrast (coronary angiography and CTA) .
   Cre improved to 1.1 today.
   - continue to hold valsartan
   # Dyspnea:  Likely secondary to critical aortic stenosis and chronic
   CHF. Stable yesterday. No lasix required.
   - Lasix IV 40mg PRN for SOB but will exert caution given preload
   dependence and AS
   - Nebs PRN
   # Anemia: Chronic issue, on iron supplementation as an outpatient. HCT
   stable.
   - Transfused [**2104-5-4**], Hct stable
   # AS: Severe, leading to heart failure, and recent admission for
   syncope. Planned to have AVR on Monday.
   - metoprolol to maximize diastolic filling time (as BPs allow)
   # UTI:  ampicillin until surgery, follow ucx sensitivities
   # elevated PTT: change hep sq to [**Hospital1 **]. If remain elevated will work up
   with mixing study.
   # FEN: Low-salt diet, replete lytes prn
   # Access: PIV
   # PPx: Sc heparin, bowel regimen prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-5-7**] 12:04 AM
   Prophylaxis:
   DVT: hep subq
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined.  Stable respiratory
   and renal status.  Tentatively scheduled for AVR on Monday.  I agree
   with Dr. [**Last Name (STitle) **]
s note, including his H+P, A+P.  OK for transfer to
   step-down unit today.  Total time on patient care: 30 minutes.  ICU
   level of care due to severe AS and pulmonary edema.
   ------ Protected Section Addendum Entered By:[**Name (NI) 135**] [**Last Name (NamePattern1) **], MD
   on:[**2104-5-9**] 12:55 ------